US06667325B1
(b) Synthesis of 4-Benzyloxybutyric Acid
3.0 g of 4-benyloxybutanol and 182 mg of TEMPO (2,2,6,6-tetramethyl-1-piperidinyloxy, radical) were dissolved in a mixture composed of 60 ml of acetonitrile and 60 ml of phosphate buffer (pH 6.7). To this reaction mixture were added 20 ml of an aqueous solution of sodium chlorite (NaClO2) (3.8 g) and 0.5 ml of a 5% aqueous solution of sodium hypochlorite (NaClO), followed by stirring at 35° C. for 5.5 hours. The reaction mixture was adjusted to pH 8.0 by the addition of a 2M aqueous solution of sodium hydroxide, and stirred for 20 minutes. Thereafter, 84 ml of an aqueous solution of sodium sulfate (5.1 g) was added thereto under cooling with ice so that its internal temperature would not exceed 20° C., followed by stirring for 30 minutes. After the reaction mixture was washed with 50 ml of t-butylmethyl ether, the aqueous solution was adjusted to pH 3-4 by the addition of 1M hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and then with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 3.3 g (102% yield) of the title compound.

reactant | 4-benyloxybutanol | 3.0 g | C(C1=CC=CC=C1)OCCCCO | C11H16O2
reactant | phosphate | 60 ml, pH 6.7 | P(=O)([O-])([O-])[O-]
reactant | sodium chlorite | 3.8 g | Cl(=O)[O-].[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | 5.1 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
catalyst | TEMPO | 182 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 4-Benzyloxybutyric Acid | 3.3 g, 102% yield | C(C1=CC=CC=C1)OCCCC(=O)O | C11H14O3
